US04556672
5-Amino-2-oxindole-1-carboxamide
To a solution of 5.0 g. of 5-nitro-2-oxindole-1-carboxamide in 110 ml. of N,N-dimethylformamide was added 0.5 g. of 10% palladium-on-carbon, and the resulting mixture was shaken under an atmosphere of hydrogen at an initial pressure of 5 kg/cm2 until hydrogen uptake ceased. The catalyst was removed by filtration, and the filtrate was diluted with brine and extracted with ethyl acetate. The extracts were dried (MgSO4) and evaporated in vacuo to give a dark-colored oil which solidified after trituration under water. This afforded 3.0 g. of the title compound as a yellow solid, mp 189°-191° C.

reactant | 5-nitro-2-oxindole-1-carboxamide | [N+](=O)([O-])C=1C=C2CC(N(C2=CC1)C(=O)N)=O | C9H7N3O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 5-Amino-2-oxindole-1-carboxamide | NC=1C=C2CC(N(C2=CC1)C(=O)N)=O | C9H9N3O2
